US07230023B2
(6) (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-Cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-methoxybenzoate
According to a similar procedure to that described in Example 1-(12), 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile (542.6 mg, 1.00 mmol) described in Reference example 1, sodium hydride (55% dispersion in mineral oil; 52.4 mg, 1.20 mmol), and the crude 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-methoxybenzoyl chloride were reacted in tetrahydrofuran (7 ml), and the reaction mixture was worked up to afford, after extraction, the title compound as a crude oil. The crude oil was subjected to chromatography on a silica gel (30 g) column (eluent; ethyl acetate:hexane=2:1˜4:1) to afford the title compound (425.5 mg, 49% yield).

reactant | 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile | 1.00 mmol, 542.6 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)/C=C/C=C/C1=C(C=C(C#N)C=C1)F)(CN1N=CN=C1)O | C27H25F3N4O3S
reactant | sodium hydride | 1.20 mmol, 52.4 mg | [H-].[Na+]
reactant | 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-methoxybenzoyl chloride | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)Cl)C=CC=C1OC | C15H18ClO6P
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-Cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-methoxybenzoate | 425.5 mg, 49% yield | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)O[C@@]([C@@H](C)S[C@H]2CO[C@@H](OC2)\C=C\C=C\C2=C(C=C(C=C2)C#N)F)(CN2N=CN=C2)C2=C(C=C(C=C2)F)F)C=CC=C1OC | C42H42F3N4O9PS
